US09145411B2
Step 4: N-(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)cyclopropanecarboxamide
To a 50 mL round bottom flask, tert-butyl (5-(7-(3-(cyclopropanecarboxamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate (0.15 g, 0.00026 mol) and DCM (10 mL) were added and then cooled to 0° C. To the same reaction flask, trifluoroacetic acid (0.12 g, 0.00104 mol) was added at 0° C. and the reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was quenched with saturated sodium bicarbonate solution and extracted with 10% methanol in chloroform. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide the crude product. The crude product was subjected to flash column chromatography using 3-4% methanol in chloroform. The obtained solid was washed diethyl ether, filtered and dried under vacuum to afford the title compound (0.1 g, 81%). 1H NMR (400 MHz, DMSO-d6): δ 10.44 (s, 1H), 9.23 (s, 2H), 9.04 (d, J=2.4 Hz, 1H), 8.27 (d, J=2.4 Hz, 1H), 8.23 (s, 1H), 7.68-7.50 (m, 3H), 7.24 (br s, 2H), 4.55 (br s, 4H), 3.86 (d, J=4.0 Hz, 4H), 1.85-1.83 (m, 1H), 0.87-0.85 (m, 4H): LC-MS (ESI): Calculated mass: 468.2; Observed mass [M+H]+: 469.1. (RT=0.35 min).

reactant | tert-butyl (5-(7-(3-(cyclopropanecarboxamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.00026 mol, 0.15 g | C1(CC1)C(=O)NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C30H32N8O4
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic acid | 0.00104 mol, 0.12 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)cyclopropanecarboxamide | 0.1 g, 81% | NC1=NC=C(C=N1)C=1N=C(C2=C(N1)C=C(C=N2)C=2C=C(C=CC2)NC(=O)C2CC2)N2CCOCC2 | C25H24N8O2
